US06498169B1
Synthesis of 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone Ethylene Ketal
4-Piperidone ethylene ketal (573 mg) and 2-(4-chloro-3,5-dimetoxyphenyl)-4-chloromethylpyridine (1.19 g) were condensed in the same manner as described in Example 2 to give the title compound.

reactant | 4-Piperidone ethylene ketal | 573 mg | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | 2-(4-chloro-3,5-dimetoxyphenyl)-4-chloromethylpyridine | 1.19 g | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CCl)OC | C14H13Cl2NO2
product | 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone Ethylene Ketal | C1COC2(CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)Cl)OC)O1 | C21H25ClN2O4
